US07220465B2
A 1.2 g of 8-(4′-isopropylanilino)-1,5-dihydroxy-4-nitroanthraquinone and a 1.4 g of tosyl chloride were dissolved in 20 ml of dichloromethane, and a 1.0 ml of trimethylamine was added to the solution and allowed to react for 12 hours at room temperature under stirring. The reaction solution was extracted with adequate amounts of ethyl acetate and 1N-hydrochloric acid to separate into two layers. The extracted organic layer was dried with magnesium sulfate and concentrated. The obtained product was purified by silica gel chromatography to give a 2.0 g of 8-(4′-isopropylanilino)-4-nitro-1,5-bis(p-toluenesulfonyloxy)anthraquinone in a 94% yield.

reactant | 8-(4′-isopropylanilino)-1,5-dihydroxy-4-nitroanthraquinone | 1.2 g | C(C)(C)C1=CC=C(NC=2C=CC(=C3C(C=4C(=CC=C(C4C(C23)=O)O)[N+](=O)[O-])=O)O)C=C1 | C23H18N2O6
reactant | tosyl chloride | 1.4 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | trimethylamine | 1.0 ml | CN(C)C | C3H9N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 8-(4′-isopropylanilino)-4-nitro-1,5-bis(p-toluenesulfonyloxy)anthraquinone | 2.0 g, 94% yield | C(C)(C)C1=CC=C(NC=2C=CC(=C3C(C=4C(=CC=C(C4C(C23)=O)OS(=O)(=O)C2=CC=C(C=C2)C)[N+](=O)[O-])=O)OS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C37H30N2O10S2
